Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C:1]([C:2]([C:3]([C:4]([C:5](=[O:6])[H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C@:2]1([H:10])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]([H:11])([H:16])[O:6]1)([H:7])([H:8])[H:9],81.1054976339462
[C:1]([C@@:2]([C:3]([C:4](=[O:5])[H:14])([H:12])[H:13])([C:6]#[N:7])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C+:2]=[C:6]=[N-:7])([H:8])([H:9])[H:10].[C:3]([C:4](=[O:5])[H:14])([H:11])([H:12])[H:13],77.53889602619171
[O:1]=[C:2]1[C:3]([H:7])([H:8])[C:4]([H:9])([H:10])[O:5][C:6]1([H:11])[H:12]>>[O:1]=[C:2]=[C:3]([C:4]([O:5][C:6]([H:7])([H:11])[H:12])([H:9])[H:10])[H:8],75.9848689466241
[C:1]([C:2]#[C:3][C:4]([C:5]([H:11])([H:12])[H:13])([C:6]([H:14])([H:15])[H:16])[O:7][H:17])([H:8])([H:9])[H:10]>>[C+:1]([C:2](=[C-:3][C:4]([C:5]([H:11])([H:12])[H:13])([C:6]([H:14])([H:15])[H:16])[O:7][H:17])[H:10])([H:8])[H:9],69.5364873697468
[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@@:4]2([O:5][H:12])[C:6]([H:13])([H:14])[C@@:7]12[H:15])[H:8]>>[C:4]1([O:5][H:12])=[C:7]([H:15])[C:6]1([H:13])[H:14].[O:1]([C:2](=[C:3]([H:10])[H:11])[H:9])[H:8],73.03413739741879
[N:1](=[C:2]=[C:7]([C:6](=[O:5])[H:9])[H:10])[H:8].[N:3]#[N:4]>>[N:1]([C:2]#[C:7][H:10])([C:6](=[O:5])[H:9])[H:8].[N:3]#[N:4],64.64642765110099
[C:1]([C:2](=[C:3])[C@@:4]([C:5]([H:11])([H:12])[H:13])([O:6][H:14])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2]#[C:3][C@@:4]([C:5]([H:11])([H:12])[H:13])([O:6][H:14])[H:10])([H:7])([H:8])[H:9],9.110461439143698
[C:1]([C:2]([C:3]([C:4]([C:5]([H:17])([H:18])[H:20])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10].[C:6]([O:7][H:21])[H:19]>>[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([O:7][H:21])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],11.64929502786591
[C:1]([O:2][C:3](=[O:4])[N:5]([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1](=[O:2])([H:6])[H:8].[C:3](=[O:4])=[N:5][H:10].[H:7][H:9],65.94369662731201
[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@@:4]2([O:5][H:12])[C:6]([H:13])([H:14])[C@@:7]12[H:15])[H:8]>>[C:2]1([H:9])=[C:7]([H:15])[C:6]([H:13])=[C:4]([O:5][H:12])[C:3]1([H:10])[H:11].[O:1]([H:8])[H:14],54.0097337289738
[C:3](/[N:4]=[C:5](\[O:6][H:7])[H:13])([H:10])([H:11])[H:12].[O:1]=[C:2]([H:8])[H:9]>>[O:1]([C:2]([C:3]([N:4]([C:5](=[O:6])[H:13])[H:12])([H:10])[H:11])([H:8])[H:9])[H:7],70.1915740401763
[C:1](/[N:2]=[C:3](\[O:4][C:5](=[O:6])[H:11])[H:10])([H:7])([H:8])[H:9]>>[C:1]([N:2]=[C:3]=[O:4])([H:7])([H:8])[H:9].[C:5](=[O:6])([H:10])[H:11],54.8136403334361
[N:1](=[C:2](/[N:3]([C:4](=[O:5])[H:9])[H:8])[H:7])\[H:6]>>[H:6][H:7].[N:1]#[C:2][N:3]([C:4](=[O:5])[H:9])[H:8],99.59269735516779
[N:1]([C:2](=[O:3])[C:4]([C:5](=[O:6])[H:11])([H:9])[H:10])([H:7])[H:8]>>[C-:5]#[O+:6].[C:2](=[O:3])=[C:4]([H:9])[H:10].[N:1]([H:7])([H:8])[H:11],47.881933234083604
[C:1]([N:2]=[N:6])([H:7])([H:8])[H:9].[N:3]=[C:4]=[N:5][H:10]>>[C:1]([n:2]1[n:3][c:4]([H:10])[n:5][n:6]1)([H:7])([H:8])[H:9],57.49730317532369
[C:1]([c:2]1[c:3]([H:11])[o:4][c:5]([O:6][H:12])[n:7]1)([H:8])([H:9])[H:10]>>[C:1]([C:2]1=[C:3]([H:11])[N:7]1[C:5](=[O:4])[O:6][H:12])([H:8])([H:9])[H:10],68.0867734251111
[O:1]([C:2](=[C:6]=[C:7]([C:3]([C:4]#[N:5])([H:10])[H:11])[H:12])[H:9])[H:8]>>[O:1]([C@@:2]([C:3]([C:4]#[N:5])([H:10])[H:11])([C:6]#[C:7][H:12])[H:9])[H:8],65.896009049724
[N:1]#[C:2][c:3]1[c:4]([H:8])[n:5]([H:9])[n:6][n:7]1>>[N:1]1=[C:2]=[C:3]=[C:4]1[H:8].[N:5](=[N+:6]=[N-:7])[H:9],161.46429599429501
[C:1]([C:2]([O:3]/[C:4](=[N:5]/[H:13])[C:6]#[N:7])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1](/[N:7]=[C:6]1\[C:2]([H:11])([H:12])[O:3]\[C:4]1=[N:5]\[H:13])([H:8])([H:9])[H:10],100.17765845535801
[N:1](=[C:2])[H:6].[O:3]=[C:4]([O:5][H:7])[H:8]>>[N:1](=[C:2](/[O:3][C:4](=[O:5])[H:8])[H:7])\[H:6],20.031889433973195
[N:1]([C-:2]=[C:7]([C:6]#[O+:5])[H:10])([H:8])[H:9].[N:3]#[N:4]>>[N:1](=[C:2]=[C:7]([C:6](=[O:5])[H:9])[H:10])[H:8].[N:3]#[N:4],23.264618751383402
[C:1]([C:2]([C@@:3]1([H:11])/[C:4](=[N:5]/[H:12])[O:6]1)=[C:7]([H:13])[H:14])([H:8])([H:9])[H:10]>>[C:1]([C:2]1=[C:3]([H:11])/[C:4](=[N:5]/[H:12])[O:6][C:7]1([H:13])[H:14])([H:8])([H:9])[H:10],30.5938730059207
[O-:1][C:2](=[C:3]([N+:5]1=[C:6]([H:12])[O:7][C:4]1([H:10])[H:11])[H:9])[H:8]>>[O:1]=[C:2]([C@@:3]1([H:9])[C:4]([H:10])([H:11])[N:5]1[C:6](=[O:7])[H:12])[H:8],13.692812590863397
[C:1]([C@:2]1([H:11])[C@:4]([O:5][H:14])([H:13])[C@:6]1([O:7][O:3][H:12])[H:15])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([O:3][H:12])([C@@:4]([O:5][H:14])([C:6](=[O:7])[H:15])[H:13])[H:11])([H:8])([H:9])[H:10],18.385045686565206
[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([N:4]([C:5]([H:15])([H:16])[H:17])[C:6](=[O:7])[H:18])[H:11])([H:8])([H:9])[H:10]>>[C-:6]#[O+:7].[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([N:4]([C:5]([H:15])([H:16])[H:17])[H:18])[H:11])([H:8])([H:9])[H:10],74.42841254240349
[C:1]([C@@:2]1([H:11])[C@@:3]2([H:12])[C:4]([H:13])([H:14])[C:5]([H:15])=[C:6]([H:16])[C@@:7]12[H:17])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C@@:3]2([H:12])[C:4]([H:13])([H:14])[C-:5]([H:15])[C:6]([H:16])([H:17])[C+:7]12)([H:8])([H:9])[H:10],89.95715195479782
